US06977274B2
As a difunctional resin, a diglycidylether of bisphenol A (hereinafter referred to as “DGEBA”) type epoxy resin, in a greater detail, “LY 556” manufactured by Ciba-Geigy AG and “YD-128” manufactured by Kukdo Chemicals were used. As a cycloaliphatic difunctional resin (hereinafter referred to as “CAE”), an epoxy resin “ERL 4221” manuafactured by Union Carbide Company was used. As a trifunctional resin, “Tactix 742” manufactured by Dow Chemicals and “YH 300” manufactured by Kukdo chemicals were used. As a tetrafunctional epoxy resin, “MY720” manufactured by Ciba-Geigy AG, was used. The latent cationic curing agent (the latent cationic curing agent containing a hexafluoroantimonate) was synthesized by the use of benzyl bromide, pyrazine and pyridine as starting materials (Y. C. Kim, S. J. Park, and J. R. Lee, Polymer J., 29, 759 (1997)). More particularly, for example, the method for synthesizing Sb-A type curing agent was explained as follows. To a 250 ml flask equipped with a stirrer, 60 g (20 mmol) of pyrazine and 7.30 g (42.7 mmol) of benzyl bromide were charged and reacted by mixing them at room temperature for 24 hours. Subsequently, the reaction solution was filtered to obtain a benzylpyrazinium bromide in white color. This benzylpyrazinium bromide was dissolved in 30 ml of distilled water and filtered to obtain a solution in which no purity (insoluble material) was contained. To said solution 5.17 g (20 mmol) of NaSbF6 was added to obtain a white product, which was then subjected to recrystallization by the use of methyl alcohol to give 4.84 g of N-benzylpyrazinium hexafluoroantimonate (BPH; a sort of Sb-A type curing agent, cationic latent catalytic curing agent containing hexafluoroantimonate) as a white reaction product.

reactant | diglycidylether | C(C1CO1)OCC1CO1 | C6H10O3
reactant | bisphenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | DGEBA | CC(C)(C1=CC=C(C=C1)OCC2CO2)C3=CC=C(C=C3)OCC4CO4 | C21H24O4
reactant | hexafluoroantimonate | F[Sb-](F)(F)(F)(F)F
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | pyrazine | N1=CC=NC=C1 | C4H4N2
reactant | pyrazine | 20 mmol, 60 g | N1=CC=NC=C1 | C4H4N2
reactant | benzyl bromide | 42.7 mmol, 7.30 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | benzylpyrazinium bromide | [Br-].C(C1=CC=CC=C1)[N+]1=CC=NC=C1 | InChI=1S/C11H11N2.BrH/c1-2-4-11(5-3-1)10-13-8-6-12-7-9-13;/h1-9H,10H2;1H/q+1;/p-1
